US08193378B2
To a solution of methyl 1H-indole-5-carboxylate (1.5 g) in DMF (30 mL) was added NaH (410 mg) at 0° C. The reaction mixture was warmed to 25° C., followed by stirring for 0.5 hours. Then, the reaction mixture was cooled to 0° C. again, and then methyliodide (1.38 mL) was added thereto. The reaction mixture was warmed to 25° C., followed by stirring for 3 hours. To the reaction liquid was added water (50 mL), followed by extraction with EtOAc (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, CHCl3:MeOH=100:0 to 98:2) to obtain methyl 1-ethyl-1H-indole-5-carboxylate (1465 mg) as a white solid.

reactant | methyl 1H-indole-5-carboxylate | 1.5 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | NaH | 410 mg | [H-].[Na+]
reactant | methyliodide | 1.38 mL | CI | CH3I
reactant | water | 50 mL | O | H2O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 1-ethyl-1H-indole-5-carboxylate | 1465 mg | C(C)N1C=CC2=CC(=CC=C12)C(=O)OC | C12H13NO2
